### PR TITLE
[Merged by Bors] - feat: Finite maximality/minimality

### PR DESCRIPTION
**Pull request by apnelson1**
This PR slightly tidies the proof of `Set.Finite.exists_maximal_wrt`, and adds a minimality version.
It also adds primed versions of both that alter the finiteness hypothesis to a weaker hypothesis where only the image is finite. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite.lean [hunk 1]
```diff
@@ -1571,26 +1571,39 @@ theorem finite_range_findGreatest {P : α → ℕ → Prop} [∀ x, DecidablePre
...
+      rcases Set.mem_insert_iff.1 hc with (rfl | hcs)
+      · rfl
+      · rwa [← ih c hcs (le_trans h hac)]
+    · refine' ⟨b, Set.mem_insert_of_mem _ hb, fun c hc hbc => _⟩
+      rcases Set.mem_insert_iff.1 hc with (rfl | hcs)
+      · exact (h hbc).elim
+      · exact ih c hcs hbc
 #align set.finite.exists_maximal_wrt Set.Finite.exists_maximal_wrt
 
+theorem Finite.exists_maximal_wrt' [PartialOrder β] (f : α → β) (s : Set α) (h : (f '' s).Finite)
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite.lean:1594]: Can you add a docstring that compares this to the unprimed version (and same below)?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by eric-wieser** [comment]
bors merge

**Comment by apnelson1** [comment]
I don't understand the issue that CI is having here. Do I need to do something?

**Comment by eric-wieser** [comment]
Just a network error

bors merge
